US03976684
To a flask equipped with a stirrer, dropping funnel, condenser, and gas inlet tube maintained under a nitrogen atmosphere, there is added 23.2 g (0.1 mole) of 2,4-dihydroxy-4b,5,6,7,8,8a,9,10-octahydro-9-oxo-phenanthrene, 20 g (0.15 mole) of dimethyl sulfate, 22 g (0.16 mole) of dry potassium carbonate and 500 ml of dry acetone, the resulting mixture is then refluxed with stirring overnight. The resulting suspension is cooled, 5 ml. of water is added and stirring is continued for an additional 5 minutes. The mixture is filtered, and the filtrate is concentrated to dryness. The resulting residue is recrystallized from acetone/methanol to give 2,4-dimethoxy-4b,5,6,7,8,8a,9,10-octahydro-9oxo-phenanthrene, m.p. 130°-131°C.

reactant | 2,4-dihydroxy-4b,5,6,7,8,8a,9,10-octahydro-9-oxo-phenanthrene | 0.1 mole, 23.2 g | OC1=CC=2CC(C3CCCCC3C2C(=C1)O)=O | C14H16O3
reactant | dimethyl sulfate | 0.15 mole, 20 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbonate | 0.16 mole, 22 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 500 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 2,4-dimethoxy-4b,5,6,7,8,8a,9,10-octahydro-9oxo-phenanthrene | COC1=CC=2CC(C3CCCCC3C2C(=C1)OC)=O | C16H20O3
